US07132443B2
C. Methyl (2R)-2-[(tert-butoxycarbonyl)amino]-3-{[3-(4-fluorophenyl)propyl]thio}-3-methylbutanoate.
To a CH3CN (60 mL) solution containing methyl (2R)-2-[(tert-butoxycarbonyl)amino]-3-mercapto-3-methylbutanoate (as described above) (1.51 g, 5.73 mmol, 1.0 eq) was added sodium tert-butoxide (716 mg, 7.45 mmol, 1.3 eq). The resulting pale yellow mixture was allowed to stir at RT for 10 min at which time 1-(3-chloropropyl)-4-fluorobenzene (as described above) (1.09 g, 6.3 mmol, 1.1 eq) was added. The resulting solution was allowed to stir at RT for 18 hr. The reaction was then quenched with a sat NH4Cl solution, poured into H2O, and extracted (2×) with EtOAc. The combined extracts were dried over MgSO4 and concentrated in vacuo and then purified via flash chromatography using 5:1 hexanes/EtOAc as the mobile phase. Isolated 700 mg (1.75 mmol, 31% yield).

reactant | methyl (2R)-2-[(tert-butoxycarbonyl)amino]-3-mercapto-3-methylbutanoate | 5.73 mmol, 1.51 g, 1.0 eq | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C(C)(C)S | C11H21NO4S
reactant | sodium tert-butoxide | 7.45 mmol, 716 mg, 1.3 eq | CC(C)([O-])C.[Na+]
reactant | 1-(3-chloropropyl)-4-fluorobenzene | 6.3 mmol, 1.09 g, 1.1 eq | ClCCCC1=CC=C(C=C1)F | C9H10ClF
solvent | CH3CN | 60 mL | CC#N | C2H3N
product | Methyl (2R)-2-[(tert-butoxycarbonyl)amino]-3-{[3-(4-fluorophenyl)propyl]thio}-3-methylbutanoate | 31% yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C(C)(C)SCCCC1=CC=C(C=C1)F | C20H30FNO4S
